.subckt or4i_x1 A B1 B2 B3 X VDD VSS
XO4I_P0 in0_b A VDD VDD pmos w=2u l=100n
XO4I_N0 in0_b A VSS VSS nmos w=1u l=100n
XO4I0_PA0 no4_1 in0_b VDD VDD pmos w=2u l=100n
XO4I0_PB0 no4_2 B1 no4_1 VDD pmos w=2u l=100n
XO4I0_PC0 no4_3 B2 no4_2 VDD pmos w=2u l=100n
XO4I0_PD0 nor4i_out B3 no4_3 VDD pmos w=2u l=100n
XO4I0_NA0 nor4i_out in0_b VSS VSS nmos w=1u l=100n
XO4I0_NB0 nor4i_out B1 VSS VSS nmos w=1u l=100n
XO4I0_NC0 nor4i_out B2 VSS VSS nmos w=1u l=100n
XO4I0_ND0 nor4i_out B3 VSS VSS nmos w=1u l=100n
XO4II0_P0 X nor4i_out VDD VDD pmos w=2u l=100n
XO4II0_N0 X nor4i_out VSS VSS nmos w=1u l=100n
.ends or4i_x1
